US09079878B2
1-[4-(Pentafluoro-λ6-sulfanyl)phenyl]ethanone
To a solution of N-methoxy-N-methyl-4-(pentafluoro-λ6-sulfanyl)benzamide (Preparation 42, 3.0 g, 10.3 mmol) in THF (100 mL) at 0° C. was added drop-wise methyl lithium (1.5M solution, 10.3 mL, 15.5 mmol). The reaction was stirred at 0° C. for 2 hours, then quenched with a saturated aqueous solution of ammonium acetate. The reaction was extracted with ethyl acetate and dried over MgSO4 before concentrating in vacuo to afford the title compound that was used without further purification.

reactant | N-methoxy-N-methyl-4-(pentafluoro-λ6-sulfanyl)benzamide | 10.3 mmol, 3.0 g | CON(C(C1=CC=C(C=C1)S(F)(F)(F)(F)F)=O)C | C9H10F5NO2S
reactant | methyl lithium | 15.5 mmol, 1.5M, 10.3 mL | C[Li]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-[4-(Pentafluoro-λ6-sulfanyl)phenyl]ethanone | FS(C1=CC=C(C=C1)C(C)=O)(F)(F)(F)F | C8H7F5OS
